US05773469
N-{2-[4-(10,11-DIHYDRO-5H-DIBENZO[a,d]CYCLOHEPTEN-5-OXY)-PHENYL]ETHYL}PHTHALIMIDE
Tri-n-butylphosphine (550 μL, 2.2 mmol) is added to a solution of dibenzosuberol (464 mg, 2.21 mmol) and intermediate 5b (590 mg, 2.21 mmol) in benzene (10 mL) at 5° C. 1,1'-(Azodicarbonyl)dipiperidine (557 mg, 2.21 mmol) is added and the resulting mixture is allowed to reach ambient temperature and remain there for 24 h. The resulting mixture is heated at reflux for an additional 24 h and concentrated in vacuo. The residue is purified by column chromatography using EtOAc/hexane (20:80) as an eluent to give 0.315 g (31%) of the title compound as a white solid mp: 205°-207° C.; Anal. Calc'd for C31H25NO3 : C, 81.02; H, 5.48; N, 3.05; Found: C, 80.56; H, 5.4; N, 2.96

reactant | Tri-n-butylphosphine | 2.2 mmol, 550 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | dibenzosuberol | 2.21 mmol, 464 mg | C1CC2=CC=CC=C2C(C3=CC=CC=C31)O | C15H14O
reactant | 1,1'-(Azodicarbonyl)dipiperidine | 2.21 mmol, 557 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | N-{2-[4-(10,11-DIHYDRO-5H-DIBENZO[a,d]CYCLOHEPTEN-5-OXY)-PHENYL]ETHYL}PHTHALIMIDE | 0.315 g, 31% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)OC3=CC=C(C=C3)CCN3C(C=2C(C3=O)=CC=CC2)=O | C31H25NO3
